US08748624B2
STEP E: 3-(5-(5-chloro-2-(((4′-fluoro-3′-methyl-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoic acid
A 1M aqueous solution of LiOH (2.0 mL, 2.0 mmol) was added to a THF (2.0 mL) and MeOH (0.5 mL) solution of ethyl 3-(5-(5-chloro-2-(((3′,4′-difluoro-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoate (32 mg, 0.06 mmol) and the resulting mixture was stirred at room temperature. After 1 h the resulting mixture was neutralized with 2M aqueous HCl, diluted with DCM and water and the layers were separated. The aqueous layer was extracted with DCM and the combined extracts were dried (Na2SO4), and concentrated. The product was dissolved in Et2O (5-7 mL) and then added to heptane (25 mL). The resulting mixture was contracted slowly to about half volume (15 mL). The solid was collected by filtration, washed with heptane (3 mL×2) and dried in vacuo to yield the title compound.

reactant | LiOH | 2.0 mmol, 2.0 mL | [Li+].[OH-]
reactant | THF | 2.0 mL | C1CCOC1 | C4H8O
reactant | ethyl 3-(5-(5-chloro-2-(((3′,4′-difluoro-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoate | 0.06 mmol, 32 mg | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)CNC1=CC=C(C=C1)C1=CC(=C(C=C1)F)F | C30H26ClF2N3O3
reactant | HCl | 2M | Cl | ClH
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | MeOH | 0.5 mL | CO | CH4O
product | 3-(5-(5-chloro-2-(((4′-fluoro-3′-methyl-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoic acid | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)NCCC(=O)O)CNC1=CC=C(C=C1)C1=CC(=C(C=C1)F)C | C29H25ClFN3O3
